US08604074B2
Step 3. Synthesis of 3-(3,6-Dibromo-9H-carbazol-9-yl)-2-hydroxy-N-(3-methoxyphenyl)-propanamide
3-(3,6-Dibromo-9H-carbazol-9-yl)-2-hydroxypropanoic acid (0.025 g, 0.061 mmol) was suspended in anhydrous CH2Cl2 and cooled to 0° C. Thionyl chloride (0.005 mL, 0.073 mmol) was added dropwise and the reaction was stirred at 0° C. for 1 h. m-Anisidine (0.008 mL, 0.073 mmol) and Et3N (0.010 mL, 0.073 mmol) were added and the reaction was allowed to warm to ambient temperature over 2.5 h. Upon completion, the solution was partitioned between EtOAc and H2O. The aqueous layer was washed 3× with EtOAc, and the combined organics were washed with saturated aqueous NaCl, dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue was purified by chromatography (SiO2, 0-30% EtOAc/Hexane) to afford the desired product (15 mg, 48%).

reactant | 3-(3,6-Dibromo-9H-carbazol-9-yl)-2-hydroxypropanoic acid | 0.061 mmol, 0.025 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(C(=O)O)O | C15H11Br2NO3
reactant | Thionyl chloride | 0.073 mmol, 0.005 mL | S(=O)(Cl)Cl | Cl2OS
reactant | m-Anisidine | 0.073 mmol, 0.008 mL | COC1=CC(=CC=C1)N | C7H9NO
reactant | Et3N | 0.073 mmol, 0.010 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(3,6-Dibromo-9H-carbazol-9-yl)-2-hydroxy-N-(3-methoxyphenyl)-propanamide | 15 mg, 48% | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(C(=O)NC1=CC(=CC=C1)OC)O | C22H18Br2N2O3
